US06156700
Preparation of Sodium 2-{{2-{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}propionate, DL-
A mixture of 2-{{2-{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}propionic acid (0.500 g) and sodium hydroxide (0.0360 g) in water is stirred at room temperature overnight, concentrated in vacuo to one-half volume, and filtered to give the title product as a solid which is identified by NMR spectral analysis.

reactant | 2-{{2-{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}propionic acid | 0.500 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C2=C(C=CC(=C2)OC(C(=O)O)C)C)C1)=O | C23H18F3N3O5S
reactant | sodium hydroxide | 0.0360 g | [OH-].[Na+]
solvent | water | O | H2O
product | Sodium 2-{{2-{5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazol-3-yl}-p-tolyl}oxy}propionate | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)C2=C(C=CC(=C2)OC(C(=O)[O-])C)C)C1)=O.[Na+] | InChI=1S/C23H18F3N3O5S.Na/c1-11-4-6-14(34-12(2)21(31)32)9-15(11)20-16-8-13(5-7-17(16)35-27-20)29-19(30)10-18(23(24,25)26)28(3)22(29)33;/h4-10,12H,1-3H3,(H,31,32);/q;+1/p-1
